US07897762B2
In ethanol (40 mL) was placed t-butylcarbamidine hydrochloride (3.71 g, 27.2 mmol). This was treated with 21% sodium ethoxide in ethanol (8.80 g, 27.2 mmol) and stirred at RT for 15 min. To this was added the diethyl ethoxymethylenemalonate (5.87 g, 27.2 mmol) and the reaction mixture was stirred overnight at RT. The reaction mixture was refluxed for 1 hour and then cooled to RT. The solution was evaporated and the residue was dissolved in water (100 mL) and the pH adjusted to 3-4 (wet litmus) with acetic acid. The mixture formed a precipitate. The solid collected by filtration, washed with water (50 mL) and dried under vacuum to obtain ethyl 2-tert-butyl-4-hydroxypyrimidine-5-carboxylate (2.18 g, 36% yield). 1H NMR (400 MHz, DMSO-d6): δ 12.6 (brs, 1H), 8.44 (s, 1H), 4.20 (q, J=7.2 Hz, 2H), 1.25 (s, 9H), 1.23 (t, J=7.2 Hz, 3H); MS (ESI) m/z: 225.0 (M+H+).

reactant | t-butylcarbamidine hydrochloride | 27.2 mmol, 3.71 g | CC(C)(C)C(=N)N.Cl
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl ethoxymethylenemalonate | 27.2 mmol, 5.87 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol | 27.2 mmol, 8.80 g | C(C)O | C2H6O
product | ethyl 2-tert-butyl-4-hydroxypyrimidine-5-carboxylate | 2.18 g, 36% yield | C(C)(C)(C)C1=NC=C(C(=N1)O)C(=O)OCC | C11H16N2O3
